US07521449B2
A) 1-Benzyl-4-[4-(trifluoromethoxy)phenyl]piperid-4-ol
This compound is prepared according to the procedure described in step A of Preparation 8.5, starting with 20 g of 1-bromo-4-(trifluoromethoxy)benzene in 300 ml of THF, 89.3 ml of a 1.6M solution of n-butyllithium in hexane and 24.1 ml of 1-benzyl-4-piperidinone in 50 ml of THF. 18.5 g of the expected product are obtained.

reactant | 1-bromo-4-(trifluoromethoxy)benzene | 20 g | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzyl-4-piperidinone | 24.1 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-4-[4-(trifluoromethoxy)phenyl]piperid-4-ol | 18.5 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)OC(F)(F)F | C19H20F3NO2
